US06734301B2
A solution of DMF (10 mL) cooled to 0° C. is treated with phosphorus oxychloride (0.30 mL, 3.3 mmol) and stirred for 10 min. This clear colorless solution of the cloroiminium salt is slowly treated with a solution of tert-butyl 1,2,4,5-tetrahydro-3H-[1,4]diazepino[1,7-a]indole-3-carboxylate in DMF (9 mL) followed by warming to rt. After 18 hr, the reaction is quenched with 5N sodium hydroxide (40 mL), stirred 5 min, and extracted twice with dichloromethane (40 mL). The combined organics are washed twice with water (25 mL), once with brine (25 mL), dried over MgSO4, filtered, and concentrated to give 942 mg of a crude yellow solid. This material is purified by LC (biotage 40 g column) eluting with 35% ethyl acetate/heptane to afford 677 mg of tert-butyl 11-formyl-1,2,4,5-tetrahydro-3H-[1,4]diazepino[1,7-a]indole-3-carboxylate as a pale yellow solid, mp 167-168° C. IR (drift) 1684, 1654, 1469, 1424, 1396, 1370, 1350, 1304, 1248, 1197, 1170, 1121, 762, 757, 752 cm−1.

reactant | phosphorus oxychloride | 3.3 mmol, 0.30 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | tert-butyl 1,2,4,5-tetrahydro-3H-[1,4]diazepino[1,7-a]indole-3-carboxylate | C1CN(CCN2C1=CC=1C=CC=CC21)C(=O)OC(C)(C)C | C17H22N2O2
reactant | DMF | 9 mL | CN(C)C=O | C3H7NO
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl 11-formyl-1,2,4,5-tetrahydro-3H-[1,4]diazepino[1,7-a]indole-3-carboxylate | 677 mg | C(=O)C1=C2N(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C18H22N2O3
